US07799923B2
To a solution of 0.22 g (0.9 mmol) of 5-chloro-7-methyl-1H-indole-2-carboxylic acid ethyl ester in CH2Cl2 (10 ml), 0.21 g of di-tert-butyl dicarbonate, 0.13 ml of Et3N and 23 mg of DMAP were added. The reaction mixture was stirred at RT for 2 hours, poured onto an aqueous solution of HCl 1M and extracted with CH2Cl2. The reaction mixture was concentrated under vacuo and purified by flash chromatography (SiO2, EtOAc/Hex 1/9) to afford 0.30 g (97%) of 5-chloro-7-methyl-indole-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester as a light yellow solid.

reactant | 5-chloro-7-methyl-1H-indole-2-carboxylic acid ethyl ester | 0.9 mmol, 0.22 g | C(C)OC(=O)C=1NC2=C(C=C(C=C2C1)Cl)C | C12H12ClNO2
reactant | di-tert-butyl dicarbonate | 0.21 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Et3N | 0.13 ml | CCN(CC)CC | C6H15N
reactant | HCl | 1M | Cl | ClH
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 23 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 5-chloro-7-methyl-indole-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester | 0.30 g, 97% | CCOC(=O)C=1N(C2=C(C=C(C=C2C1)Cl)C)C(=O)OC(C)(C)C | C17H20ClNO4
